US07345068B2
Pyridine (0.584 ml, 7.22 mmol) and triethylamine (0.968 ml, 6.94 mmol)were added in turn to a suspension of 3,5-dichloro-N-trifluoroacetyl-L-tyrosine methyl ester (500 mg, 1.39 mmol), 1-naphthlene boronic acid (765 mg, 4.44 mmol), molecular sieves 4A powder (720 mg) and cppoer(II) acetate (390 mg, 2.08 mmol) in 1,2-dichloroethane(20 ml), and the mixture was stirred under air atmosphere (without argon) at room temperature for 24 hrs. The reaction mixture was diluted with ethyl acetate, and the insoluble materials were filtered off (celite (Trade mark)) and washed with ethyl acetate. The filtrate and washings were combined, washed with 10% hydrochloric acid and brine in turn and dried. The solvent was distilled off under reduced pressure. The residue was purified by column chromatography on silica gel (n-hexane/diethyl ether=2) to give 3,5-dichloro-N-trifluoroacetyl-O-(1-naphthyl)-L-tyrosine methyl ester (151 mg, 22%) as colorless crystals.

reactant | Pyridine | 7.22 mmol, 0.584 ml | N1=CC=CC=C1 | C5H5N
reactant | triethylamine | 6.94 mmol, 0.968 ml | C(C)N(CC)CC | C6H15N
reactant | 3,5-dichloro-N-trifluoroacetyl-L-tyrosine methyl ester | 1.39 mmol, 500 mg | COC([C@@H](NC(C(F)(F)F)=O)CC1=CC(=C(C(=C1)Cl)O)Cl)=O | C12H10Cl2F3NO4
reactant | 1-naphthlene boronic acid | 4.44 mmol, 765 mg | C1(=CC=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | acetate | 2.08 mmol, 390 mg | C(C)(=O)[O-]
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3,5-dichloro-N-trifluoroacetyl-O-(1-naphthyl)-L-tyrosine methyl ester | 151 mg, 22% | COC([C@@H](NC(C(F)(F)F)=O)CC1=CC(=C(C(=C1)Cl)OC1=CC=CC2=CC=CC=C12)Cl)=O | C22H16Cl2F3NO4
